US06800629B2
In 80 mL of tetrahydrofuran was dissolved 4.0 g of 3-amino-6-bromo-2-pyrazinecarbonitrile synthesized according to the procedure mentioned in U.S. Pat. No. 3,341,540. While cooling the solution with ice, 1.2 g of 60% sodium hydride and 2.8 mL of benzoyl chloride were successively added, and further 0.8 g of 60% sodium hydride was added. The mixture thus obtained was stirred at an ice-cooled temperature for one hour and thereafter at room temperature for 30 minutes. Then, 0.4 g of 60% sodium hydride was added additionally, and the mixture thus formed was stirred at room temperature for 30 minutes. After cooling the reaction mixture with ice, the mixture was poured into a liquid mixture consisting of 50 mL of ethyl acetate and 100 mL of water, and pH was adjusted to 5 with 6 mol/L hydrochloric acid. The deposited matter was collected by filtration, and the residue thus obtained was dissolved in a mixture of 50 mL of ethyl acetate and 100 mL of tetrahydrofuran, treated with active charcoal, and filtered, after which the solvent was removed under reduced pressure. The residue thus obtained was washed with diisopropyl ether to obtain 1.7 g of N-(5-bromo-3-cyano-2-pyrazinyl)-benzamide as a light yellow-colored solid product. Furthermore, organic layer was separated from the filtrate obtained above, and organic layer was washed successively with water and saturated aqueous solution of sodium chloride, treated with active charcoal and dried on anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was washed with diisopropyl ether to obtain 2.9 g of N-(5-bromo-3-cyano-2-pyrazinyl)-benzamide as a yellow-colored solid product.

reactant | 3-amino-6-bromo-2-pyrazinecarbonitrile | 4.0 g | NC=1C(=NC(=CN1)Br)C#N | C5H3BrN4
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | benzoyl chloride | 2.8 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
reactant | charcoal | C | CH4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | N-(5-bromo-3-cyano-2-pyrazinyl)-benzamide | 1.7 g | BrC=1N=C(C(=NC1)NC(C1=CC=CC=C1)=O)C#N | C12H7BrN4O
